US08067445B2
Step 5: 2-{2′-[(Acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid ethyl ester
To a solution of {2′-[(acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester (0.070 g, 0.17 mmol) in THF at −78° C. under N2 was added sodium hexamethyldisilazide (1 M in THF; 0.20 mL, 0.20 mmol), and the mixture was stirred for 5 minutes. Iodomethane (0.01 mL, 0.20 mmol) was then added, and the reaction was stirred at −78° C. for 30 minutes. Once no starting material was seen by analytical LCMS, the mixture was worked-up with EtOAc and H2O, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | {2′-[(acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | 0.17 mmol, 0.070 g | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C22H23ClF3NO3
reactant | sodium hexamethyldisilazide | 0.20 mmol, 1 M, 0.20 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | Iodomethane | 0.20 mmol, 0.01 mL | IC | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 2-{2′-[(Acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid ethyl ester | C(C)OC(C(C)C=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C23H25ClF3NO3
